US07834019B2
3) Production of 2-allyl-1-[6-(3-methyl-2-oxoimidazolidin-1-yl)pyridin-2-yl]-6-{[4-(4-methylpiperazin-1-yl)phenyl]amino}-1,2-dihydro-3H-pyrazolo[3,4-d]pyrimidin-3-one
In the same manner as in Example 29-2, but using 4-(4-methylpiperazin-1-yl)aniline in place of [5-amino-2-(4-methylpiperazin-1-yl)phenyl]methanol used in Example 29-2 and using 2-allyl-1-[6-(3-methyl-2-oxoimidazolidin-1-yl)pyridin-2-yl]-6-(methylthio)-1,2-dihydro-3H-pyrazolo[3,4-d]pyrimidin-3-one in place of 2-allyl-6-(methylthio)-1-pyridin-2-yl-3H-pyrazolo[3,4-d]pyrimidin-3-one, 115.6 mg of the entitled compound was obtained as a yellow solid.

reactant | 4-(4-methylpiperazin-1-yl)aniline | CN1CCN(CC1)C1=CC=C(N)C=C1 | C11H17N3
reactant | 2-allyl-1-[6-(3-methyl-2-oxoimidazolidin-1-yl)pyridin-2-yl]-6-(methylthio)-1,2-dihydro-3H-pyrazolo[3,4-d]pyrimidin-3-one | C(C=C)N1N(C2=NC(=NC=C2C1=O)SC)C1=NC(=CC=C1)N1C(N(CC1)C)=O | C18H19N7O2S
product | 2-allyl-1-[6-(3-methyl-2-oxoimidazolidin-1-yl)pyridin-2-yl]-6-{[4-(4-methylpiperazin-1-yl)phenyl]amino}-1,2-dihydro-3H-pyrazolo[3,4-d]pyrimidin-3-one | 115.6 mg | C(C=C)N1N(C2=NC(=NC=C2C1=O)NC1=CC=C(C=C1)N1CCN(CC1)C)C1=NC(=CC=C1)N1C(N(CC1)C)=O | C28H32N10O2
